US05081121
Two grams of 2-benzyloxy-3-methoxyaniline and 2.3 g of diethyl ethoxymethylenemalonate were heated at a temperature of 100°-120° C. for 1 hour. Fifty milliliter of diphenyl ether was added to the mixture, and the resulting mixture was further heated at 250°-270° C. for 1.5 hours. After the mixture was cooled down to room temperature, it was purified by silica gel column chromatography (Wako Gel C-200, 100 g). Elution with a mixed solvent of chloroform (95 parts) and methanol (5 parts) gave 980 mg of 3-ethoxycarbonyl-8-hydroxy-7-methoxy-4(1H)-quinolone.

reactant | 2-benzyloxy-3-methoxyaniline | Two grams | C(C1=CC=CC=C1)OC1=C(N)C=CC=C1OC | C14H15NO2
reactant | diethyl ethoxymethylenemalonate | 2.3 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | diphenyl ether | Fifty milliliter | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-ethoxycarbonyl-8-hydroxy-7-methoxy-4(1H)-quinolone | 980 mg | C(C)OC(=O)C1=CNC2=C(C(=CC=C2C1=O)OC)O | C13H13NO5
